US07696129B2
In 10 ml of acetonitrile was dissolved 0.56 g (2.3 mmol) of 5-amino-2-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pyridine, to which was added 0.31 g (2.3 mmol) of N-chlorosuccinimide (NCS). The mixture thus obtained was heated under reflux for one hour to make progress a reaction. The solvent was distilled off under reduced pressure, and the residue was separated and purified by silica gel column chromatography (hexane/ethyl acetate=2:1) to obtain 0.55 g of 3-amino-2-chloro-6-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pyridine (Compound No. 4-2) (yield: 86%).

reactant | 5-amino-2-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pyridine | 2.3 mmol, 0.56 g | NC=1C=CC(=NC1)C(C(F)(F)F)C(F)(F)F | C8H6F6N2
reactant | N-chlorosuccinimide | 2.3 mmol, 0.31 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-amino-2-chloro-6-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pyridine | 0.55 g, yield: 86% | NC=1C(=NC(=CC1)C(C(F)(F)F)C(F)(F)F)Cl | C8H5ClF6N2
